US07141669B2
A solution of 2,2-difluoro-butan-1-ol (I-4A-3b, 1.00 g, 9.1 mmol), N-phenyltrifluoromethane-sulfonimide (4.87 g, 13.6 mmol), and NEt3 (3 ml) in CH2Cl2 (15 ml) was stirred at ambient temperature for 2 h. The reaction mixture was quenched with 1N NaOH and extracted with CH2Cl2 (3×). The combined organic extracts were washed with saturated aqueous NaCl, dried, and concentrated under vacuum. The crude residue was purified via silica gel chromatography using a solvent gradient of 10% EtOAc/hexanes to 50% EtOAc/hexanes to give the product, trifluoromethanesulfonic acid 2,2-difluoro-butyl ester (I-4A-3c), as a colorless oil (701 mg, 32%): 1H NMR (400 MHz, CDCl3): δ 4.5 (t, 2H, J=11 Hz), 1.95 (m, 2H), 1.08 (t, 3H, J=7.48 Hz).

reactant | 2,2-difluoro-butan-1-ol | 9.1 mmol, 1.00 g | FC(CO)(CC)F | C4H8F2O
reactant | N-phenyltrifluoromethane-sulfonimide | 13.6 mmol, 4.87 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | NEt3 | 3 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 2,2-difluoro-butyl ester | FC(COS(=O)(=O)C(F)(F)F)(CC)F | C5H7F5O3S
